US05990142
1E 2-(Benzyloxymethyl)-6-chromanecarbaldehyde
Phosphorous oxychloride (0.863 ml, 9.26 mmol) was added very slowly and under inert atmosphere on N-methylformanilide (1.14 ml, 9.26 mmol) and the mixture was left under stirring at room temperature for 30 minutes. After that 2-(benzyloxymethyl)chromane (1.569 g, 6.18 mmol) was added stirring at 65° C. for 1.5 h. Subsequently the mixture was diluted with dichloromethane (30 ml), added with a 15% sodium acetate solution (20 ml), the phases were separated and the organic phase was washed successively with a 1M hydrochloric acid solution and a sodium chloride saturated solution. After drying and removing the solvent by evaporation under reduced pressure, a residue was obtained which was purified by flash chromatography through a silica gel column. Eluting with hexane:ethyl acetate, 10:1, 0.921 g of the title product were recovered (53% yield).

reactant | Phosphorous oxychloride | 9.26 mmol, 0.863 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(benzyloxymethyl)chromane | 6.18 mmol, 1.569 g | C(C1=CC=CC=C1)OCC1OC2=CC=CC=C2CC1 | C17H18O2
reactant | sodium acetate | 20 ml | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(Benzyloxymethyl)-6-chromanecarbaldehyde | 53% yield | C(C1=CC=CC=C1)OCC1OC2=CC=C(C=C2CC1)C=O | C18H18O3
